US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(4-methylaminopiperidin-1-yl)-2-oxoethyl]amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-(4-fluorobenzyl)-2-{4-[methyl-(2-nitrobenzenesulfonyl)amino]piperidin-1-yl}-2-oxoethyl)amide (Preparation 76, 82 mg, 0.13 mmol) in acetonitrile (6 mL) was added phenylthiol (145 μL, 1.4 mmol) followed by potassium carbonate (230 mg, 1.66 mmol) and the reaction heated to 50° C. for 24 h. To the mixture was added diethyl ether (10 mL) and 1M HCl (15 mL) and stirred for 5 min. The organic layer was separated and washed with 1M HCl (15 mL) before combining the aqueous layers. The solution was basified to pH9 with solid potassium carbonate and extracted with ethyl acetate (2×20 mL). Organic layers were combined, washed with brine (2×20 mL) and dried (MgSO4). Removal of the solvent in vacuo provided the desired product as an off-white powder. m/z (ES+)=458.40 [M+H]+; RT=2.67 min. A small portion of the product (10 mg) was dissolved in methanol (2 mL) and 1M HCl added to bring the solution to pH 1–2. After stirring for 20 min the solvent was removed in vacuo to give the title compound as the hydrochloride salt as a yellow powder. m/z (ES+)=458.38 [M+H]+; RT=2.64 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-(4-fluorobenzyl)-2-{4-[methyl-(2-nitrobenzenesulfonyl)amino]piperidin-1-yl}-2-oxoethyl)amide | 0.13 mmol, 82 mg | FC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)N(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C)NC(=O)C2=CC=3C(=CN=C(C3)Cl)N2)C=C1 | C29H28ClFN6O6S
reactant | phenylthiol | 1.4 mmol, 145 μL | C1=CC=C(C=C1)S | C6H6S
reactant | potassium carbonate | 1.66 mmol, 230 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1M, 15 mL | Cl | ClH
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(4-methylaminopiperidin-1-yl)-2-oxoethyl]amide | FC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)NC)NC(=O)C2=CC=3C(=CN=C(C3)Cl)N2)C=C1 | C23H25ClFN5O2
